US04540693
A. 2,3-Dimethyl-6-nitroquinoxaline
A stirred mixture of 4-nitro-o-phenylenediamine (Fairmont) (105 g, 0.69 mole) and 2,3-butanedione (Aldrich) (59 g, 0.69 mole) in 1.5 L of SDA-32 was heated at reflux for 4 hours. The reaction mixture was let stand at room temperature overnight. The crystallized intermediate was chilled and collected to give after ether wash 62.9 g (44.9%) of known solid. The intermediate was used without further purification in step B.

reactant | 4-nitro-o-phenylenediamine | 0.69 mole, 105 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | 2,3-butanedione | 0.69 mole, 59 g | CC(C(C)=O)=O | C4H6O2
product | 2,3-Dimethyl-6-nitroquinoxaline | CC1=NC2=CC=C(C=C2N=C1C)[N+](=O)[O-] | C10H9N3O2
